US07767697B2
To a solution of indole-6-carboxylic acid (85 mg, 0.528 mmol), 4-aminomethyl 1-(4-iodophenyl)imidazole I-2 prepared in Example 1 (136 mg, 0.455 mmol) and TEA (0.150 mL, 1.08 mmol) in DMF (4 mL), BOP (280 mg, 0.633 mmol) was added. After the mixture was stirred at room temperature overnight, water and EtOAc were added. The organic layer was separated, washed with 5% aq. NaHCO3, dried over Na2SO4, concentrated in vacuo to give N-((1-(4-iodophenyl)-1H-imidazol-4-yl)methyl)-1H-indole-6-carboxamide as a crude sample, which was used in the next reaction without further purification. MS 443.0 (M+H).

reactant | indole-6-carboxylic acid | 0.528 mmol, 85 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 4-aminomethyl 1-(4-iodophenyl)imidazole | NCC=1N=CN(C1)C1=CC=C(C=C1)I | C10H10IN3
reactant | BOP | 0.633 mmol, 280 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-((1-(4-iodophenyl)-1H-imidazol-4-yl)methyl)-1H-indole-6-carboxamide | IC1=CC=C(C=C1)N1C=NC(=C1)CNC(=O)C1=CC=C2C=CNC2=C1 | C19H15IN4O
